US06627651B1
Into a solution of 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (0.21 g) in dichloromethane (10 ml) were added manganese dioxide (687 mg), and the resulting mixture was stirred at room temperature for 3 hours. An insoluble material was removed by filtration, and the filtrate was evaporated to remove dichloromethane. The residue was recrystallized from ethyl acetate/hexane to obtain 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carbaldehyde (192 mg) as colorless crystals.

reactant | 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 0.21 g | OCC=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C18H18O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 687 mg | [O-2].[O-2].[Mn+4]
product | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carbaldehyde | 192 mg | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C=O)C1 | C18H16O2
